Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / Wellbutrin / diltiazem / Lipitor / lisinopril / 
metoprolol
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ h/o microvascular CAD, 2:1 AVB s/p 
PPM
placement, carotid stenosis, HTN, HLD, DM here w/ chest pain.
Patient reported chest pain radiating to her jaw and the back of
her neck. Patient reported being chest pain-free at rest but 
with
pain coming  back with deep breath or any exertion. She had a
stress test ___ during which she developed 2:1 AV block and
required pacemaker placement. She denied any recent episodes of
palpitations.

In the ED, 
- Initial vitals: T97.4, HR67, BP143/74, RR14, 99% RA 
 
- EKG:NSR at 60, nl axis, diffuse nonspecific sub-mm STE in II,
V1-V6 without reciprocal depressions normal T wave, Qtc 411

- Labs/studies notable for:
WBC: 6.1  HgB:11.5  Plt:214 
148|108| 16     AGap=15 
-------------<87 
4.4| 25|0.5  
___: 10.4  PTT: 26.2  INR: 1.0  
Trop-T: <0.01 x2
UA: negative
 
Due to concern for progression of carotid stenosis, the 
following
ere obtained:
CT HEAD: No acute large vascular territorial infarction or acute
intracranial hemorrhage.

CTA HEAD AND NECK: There is moderate narrowing of bilateral
internal carotid arteries. On the right involving segment C5 and
C6 involving segment C6 on the left. Bilateral vertebral 
arteries
are patent without flow-limiting stenosis or occlusion. The
principal vessels of the circle of ___ in the primary
intracranial branches are patent without flow-limiting stenosis,
occlusion, or aneurysm greater than 3 mm. Incidental note is 
made
of a left fetal origin PCA.

CXR:No acute intrathoracic process

- Patient was given:
___ 21:58 PO Aspirin 324 mg 

- Vitals on transfer: T97.9, HR68, BP145/79, RR20, 100% RA 
  
On the floor, patient reports that around 5 pm on ___ she
started feeling chest pain/tightness like a 'vice' radiating 
from
her sternum around her chest and up into her neck and jaw. She
denied associated SOB, dizziness or lightheadedness. No nausea 
or
diaphoresis. Every time she exerts herself (which could be
getting up to go to the bathroom) she gets these symptoms. They
go away with rest. Sx are also reproducible with deep breath as
well. No palpitations. No recent long-distance travel, trauma or
surgery, no increased time in bed. No orthopnea, worsening leg
swelling, cough, n/v/d/c, dysuria.

REVIEW OF SYSTEMS:
12 point ROS negative except per HPI.

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CAD with microvascular disease
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: 2:1 AVB s/p PPM
- AVNRT s/p ablation in ___ 
3. OTHER PAST MEDICAL HISTORY
-Bilateral carotid artery disease 
-varicose veins
-Anemia
-Migraines
-Obesity
-Low back pain 
-Rotator cuff tear 
-Esophagitis, reflux 
-Hammer toe, acquired 
- mild nonproliferative retinopathy without macular edema, with
long-term current use of insulin 
- Myopia with astigmatism and presbyopia, bilateral 
- S/P placement of cardiac pacemaker 
 
Social History:
___
Family History:
Her mother had DM2, CAD s/p CABG. 

 
Physical Exam:
#ERROR!
ADMISSION PHYSICAL EXAM
#ERROR!
VS:98.3 PO 170/78 64 20 98 Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing. Trace edema to mid-shin
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
LABS/MICRO reviewed in OMR.

#ERROR!
DISCHARGE PHYSICAL EXAM
#ERROR!
VS: 24 HR Data (last updated ___ @ 526)
    Temp: 97.7 (Tm 98.4), BP: 104/66 (104-149/66-85), HR: 60
(60-71), RR: 18, O2 sat: 98%, O2 delivery: Ra    
GENERAL: NAD
HEENT: AT/NC, anicteric sclera
CV: Regular rhythm, normal rate, normal S1 and S2, no murmurs,
gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: WWP. No ___ edema.
NEURO: A&Ox3
 
Pertinent Results:
#ERROR!
ADMISSION LABS
#ERROR!
___ 07:33PM   PLT COUNT-214
___ 07:33PM   NEUTS-58.2 ___ MONOS-5.4 EOS-2.8 
BASOS-0.7 IM ___ AbsNeut-3.54 AbsLymp-1.98 AbsMono-0.33 
AbsEos-0.17 AbsBaso-0.04
___ 07:33PM   WBC-6.1 RBC-3.93 HGB-11.5 HCT-35.6 MCV-91 
MCH-29.3 MCHC-32.3 RDW-13.2 RDWSD-43.6
___ 07:33PM   cTropnT-<0.01 proBNP-49
___ 07:33PM   estGFR-Using this
___ 07:33PM   GLUCOSE-87 UREA N-16 CREAT-0.5 SODIUM-148* 
POTASSIUM-4.4 CHLORIDE-108 TOTAL CO2-25 ANION GAP-15
___ 09:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:40PM URINE  UHOLD-HOLD
___ 09:40PM URINE  HOURS-RANDOM
___ 09:42PM   D-DIMER-913*
___ 09:42PM   ___ PTT-26.2 ___
___ 01:10AM   cTropnT-<0.01
___ 01:00PM   PLT COUNT-230
___ 01:00PM   WBC-5.1 RBC-4.29 HGB-12.6 HCT-38.5 MCV-90 
MCH-29.4 MCHC-32.7 RDW-13.5 RDWSD-44.4
___ 01:00PM   CALCIUM-9.9 PHOSPHATE-3.7 MAGNESIUM-2.0
___ 01:00PM   CK-MB-2 cTropnT-<0.01
___ 01:00PM   GLUCOSE-74 UREA N-12 CREAT-0.5 SODIUM-144 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-26 ANION GAP-12

#ERROR!
PERTINENT STUDIES
#ERROR!
CXR ___ evidence of acute intrathoracic process.

CTA head/neck ___: 
1. No significant intracranial abnormality on noncontrast head 
CT, no evidence
of acute infarction, hemorrhage or mass.
2. Atherosclerotic changes along the bilateral cavernous ICAs 
resulting in
focal moderate to severe left and moderate right stenoses.
3. Possible 2 mm right ___ aneurysm.  Remainder of the CTA head 
is
unremarkable.
4. Unremarkable CTA of the neck.
5. Additional findings as described above.

p-MIBI ___
INTERPRETATION: This ___ year old IDDM inactive woman s/p 
pacemaker
in ___ with a history of HTN and HLD was referred to the 
lab for
evaluation of atypical chest discomfort. The patient was infused 
with
0.4mg/5ml of regadenoson over 20 seconds, followed immediately 
by
isotope infusion. No arm, neck, back or chest discomfort was 
reported
by the patient throughout the study. There were no significant 
ST
segment changes during the infusion or in recovery. The rhythm 
was
sinus with no ectopy. Appropriate hemodynamic response to the 
infusion
and recovery. The regadenoson was reversed with 20 mg of 
caffeiene IV.

IMPRESSION: No anginal type symptoms or ST segment changes. 
Nuclear
report sent separately.

SUMMARY FROM THE EXERCISE LAB:
For pharmacologic stress 0.4 mg of regadenoson (0.08 mg/ml) was 
infused
intravenously over 20 seconds followed by a saline flush.
 
FINDINGS:  Left ventricular cavity size is ___nd stress perfusion images reveal uniform a small fixed 
defect along the
apex, with otherwise normal tracer uptake throughout the left 
ventricular
myocardium.
 
Gated images reveal normal wall motion.
 
The calculated left ventricular ejection fraction is 61%
 
IMPRESSION: 1. Mild apical defect may be artifactual.  No real 
evidence of
ischemia.

TTE ___:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 58 %. 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.

IMPRESSION: No pericardial effusion. Normal biventricular cavity 
sizes and regional/global systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure.

#ERROR!
MICROBIOLOGY
#ERROR!
___ 9:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

#ERROR!
DISCHARGE LABS
#ERROR!
___ 06:11AM BLOOD WBC-5.4 RBC-4.15 Hgb-12.1 Hct-37.3 MCV-90 
MCH-29.2 MCHC-32.4 RDW-13.4 RDWSD-44.3 Plt ___
___ 06:11AM BLOOD ___ PTT-26.2 ___
___ 06:11AM BLOOD Glucose-62* UreaN-16 Creat-0.5 Na-146 
K-4.2 Cl-107 HCO3-26 AnGap-13
___ 06:11AM BLOOD Calcium-9.6 Phos-4.6* Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of 
microvascular angina, pSVT s/p ablation, 2:1 heart, block s/p 
PPM, carotid stenosis, HTN, HLD, DM here with chest pain.

# Chest pain
Her chest pain had certain features concerning for cardiac 
etiology: radiating to the neck and worse with exertion. 
However, other features were less consistent with cardiac 
etiology: worse with deep breath and exacerbated by certain 
positional changes. Her troponins were negative and pMIBI was 
negative, making ischemia extremely unlikely. PE was unlikely 
given absence of risk factors (Well's score 0). Pericarditis was 
thought possible given recent PPM placement, so a TTE was done 
which was pending at discharge. Musculoskeletal pain was also 
possible; patient was advised to take Tylenol or NSAIDs for 
pain. Please follow-up with her pain as an outpatient and 
consider amitriptyline or muscle spasm medication (such as 
hyoscyamine) for her pain.

CHRONIC ISSUES:
# Palpitations
Recurrent, do not appear improved after pacemaker placement. 
Patient was previously on metoprolol but discontinued it due to 
fatigue. She had no significant arrhythmia on telemetry here.

# Carotid stenosis
Stable bilateral carotid stenosis on CTA head/neck in ED. No
focal neurologic signs. She was continued on aspirin. Will need 
cholesterol management. Consider a PCSK-9 given a history of 
allergy to statin.

# Hypertension
Blood pressure suboptimal here- was as high as SBP 140s. Patient 
reports her BP has worsened since pacemaker was placed. Consider 
re-starting an agent for blood pressure control; please note 
multiple allergies to medications.

# IDDM
Poorly controlled, last A1c 9.1%. Continued home lantus and 
HISS.

# HLD 
Consideration of PSK-9 inhibitor outpatient per above. The most 
recent lipid values on ___, were total cholesterol 148 
mg/dL, triglycerides 160, HDL 46 and calculated LDL 70.

Transitional Issues
#ERROR!
[] Please follow-up pending TTE to evaluate for possible 
pericardial effusion given recent instrumentation to heart. This 
could be a possible cause for her chest pain.
[] Consider additional medication for chest pain as above 
(hyoscyamine, amitriptyline).
[] Patient should ideally be on both better BP control and 
cholesterol meds, please consider trialing nifedipine for BP and 
assessing side effects (significant swelling with amlodipine) 
and consider PSK-9 inhibitor given history of allergic reaction 
to atorvastatin
[] Please discuss advance directives with patient. She stated to 
the medical team that she would like to be DNR/DNI. That for 
her, the risk of
ending up with a disability or hooked to machines makes the 
attempt at resuscitation not worth it. However, patient did not 
fill out any paperwork stating thus (i.e., MOLST form).

# CONTACT: HCP: Proxy name: ___, husband, ___ 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 72 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
2. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Glargine 72 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Multivitamins 1 TAB PO DAILY  
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why were you admitted?
- You were admitted for chest pain

What happened while you were in the hospital?
- We did a stress test (p-mibi) of your heart, which was normal
- We also repeated an echocardiogram of your heart. The result 
is still pending at discharge but will be followed up by your 
cardiologist.
- We do not believe that your chest pain is related to any clots 
or decreased blood flow to the heart.
- Your chest pain could be related to inflammation of the 
membranes around your heart or related to the muscles and bones 
in your chest. You can take Tylenol or ibuprofen for this pain 
and talk to your cardiologist at your follow-up appointment.

What should you do when you get home?
- You should take all of your medications as prescribed.
- You should attend all of your scheduled appointments. You have 
a follow-up appointment with both your cardiologist and your 
primary care provider.

It was a pleasure taking care of you! We wish you all the ___.
- Your ___ Team
 
Followup Instructions:
___